US07205304B2
A mixture of 4-(4-carboxyphenyl)-1-piperazinecarboxylic acid, 1-(1,1-dimethylethyl) ester (0.032 mol), O-(phenylmethyl)-hydroxylamine hydrochloride (0.064 mol), DMAP (0.03 mol) in DCM p.a. (250 ml) and TEA (14 ml) was stirred at room temperature. DIC (0.064 mol) was added. The reaction mixture was stirred at room temperature for 8 hours, then washed with water, HCl (0.5N) and water. The separated organic layer was dried (MgSO4), filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: DCM/MeOH 98/2). The desired fractions were collected and the solvent was evaporated, yielding 13.7 g of 4-[4-[[(phenylmethoxy)amino]carbonyl]phenyl]-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester (interm. 4).

reactant | 4-(4-carboxyphenyl)-1-piperazinecarboxylic acid, 1-(1,1-dimethylethyl) ester | 0.032 mol | C(=O)(O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4
reactant | O-(phenylmethyl)-hydroxylamine hydrochloride | 0.064 mol | Cl.C1(=CC=CC=C1)CON
reactant | DIC | 0.064 mol | CC(N=C=NC(C)C)C | C7H14N2
catalyst | DMAP | 0.03 mol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[4-[[(phenylmethoxy)amino]carbonyl]phenyl]-1-piperazinecarboxylic acid, 1,1-dimethylethyl ester | 13.7 g | C1(=CC=CC=C1)CONC(=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C23H29N3O4
